Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right flank pain
 
Major Surgical or Invasive Procedure:
repeat low transverse C-section, bilateral tubal ligation

 
History of Present Illness:
___ G2P1 at ___ w/ history significant for DVT in
previous pregnancy, nephrolithiasis, pyelonephritis due to
obstructing right ureteral stone, and recent admission for
urosepsis from ___ due to recurrent pyelonephritis
requiring an admission to the FICU due to hypoxemic respiratory
failure requiring intubation, presenting today for right flank
pain.   

She reported that the pain began on ___ and has been
increasingly worsening  until this evening when her typical pain
medications of Dilaudid were no longer treating her pain.  She
denies any fevers.  She endorses active fetal movement and 
denies
any vaginal bleeding or loss of fluid.  She is having
intermittent contractions that occur approximately every 10
minutes.  

Patient presented to triage on ___ with a similar
presentation to today's. Labs were done were notable for a
leukocytosis of 11.6, urine culture was growing prelim gram
negative rods she was restarted on cefpodoxime and told to
discontinue macrobid. However, the patient has yet to pick up 
the
prescription.  She was evaluated by urology during this visit.
Perc nephrostomy tubes were found to be draining adequately with
no concerns.  

In brief her prior h/s is significant for a diagnosis of
pyelonephritis secondary to E. coli/staph epidermidis in ___.  She had a CT scan showing a 5 mm stone and renal
ultrasound unremarkable for hydronephrosis.  She had ureteral
stents placed on ___ and removed on ___.  She was on
Keflex for suppression but stopped this medication 2 weeks prior
to her admission for urosepsis.  On admission she was noted to 
be
febrile, tachycardic, and tachypneic.  Fetal heart rate was
significant for tachycardia in the 180s.  She had a renal
ultrasound that showed severe right hydroureteronephrosis she
underwent a placement of a right percutaneous nephrostomy tube 
on
___.  During this admission she developed increased
tachypnea and rapidly worsening respiratory distress.  She was
intubated and transferred to the ICU for acute hypoxemic
respiratory failure.  She had a CTA negative for pulmonary
embolism.  This episode was thought to be secondary to ARDS due
to pyelonephritis in the pregnancy.  There was also concern for
acute pulmonary edema secondary to fluid overload since the
patient improved with a dose of IV Lasix.  She was treated with
vancomycin and Zosyn and then narrowed to ceftriaxone and
aggressively resuscitated in the ICU. She was treated for
pneumonia with IV azithromycin for 5 days. She was discharged
home on oral cefpodoxime for a planned ___fter
completing her course she was given Macrobid for prophylaxis.

 
Past Medical History:
PNC: 
- ___: ___ 
- Labs: Rh+/Abs-/RI/RPR NR/HBsAg-/HIV-/GBS unknown
- Screening: LR NIPT
- FFS: velementous marginal cord insertion, echogenic focus in
the left ventricle
- GTT: passed
- U/S: ___ for marginal cord 1314 g 41%
- Issues:
*) h/o DVT: Diagnosed in last pregnancy at 6 months, was on
anticoagulation the rest of pregnancy and 40 days of post-partum
course. Is on lovenox.
*) Pyelonephritis, h/o urosepsis w/ perc neph tubes in place: 
see
above 
*) Zika exposure: Patient from ___. Negative serum testing. 
*) History of LTCS: Full-term. Operative note not available. 
*) Velamentous marginal cord: Noted on FFS. Normal EFW on ___ 
41%

OBHx: G2P1
- G1: LTCS full-term in ___ (operative note not available)
- G2: Current
  
GynHx:
- Denies abnormal Pap or cervical procedures 
- Denies fibroids/endometriosis/cysts
- Denies STIs
  
PMH: 
- h/o pyelonephritis due to right ureteral stone 
- h/o right ___ DVT during first pregnancy, see above 
  
PSH: 
- LTCS
- Breast augmentation 
 

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Physical Exam on Discharge: 
VS: Afebrile, VSS 
Neuro/Psych: NAD, Oriented x3, Affect Normal 
Lungs: breathing comfortably on room air
Abdomen: soft, appropriately tender, fundus firm, incision c/d/I
Back: bilateral CVA tenderness, right percutaneous nephrostomy 
tube in place
Pelvis: minimal bleeding 
Extremities: warm and well perfused, no calf tenderness, no 
edema 

 
Pertinent Results:
___ 07:00AM BLOOD Hct-26.0*
___ 03:21AM BLOOD WBC-11.0* RBC-3.49* Hgb-10.7* Hct-32.3* 
MCV-93 MCH-30.7 MCHC-33.1 RDW-13.3 RDWSD-44.9 Plt ___
___ 03:21AM BLOOD Neuts-51.8 ___ Monos-9.5 Eos-1.5 
Baso-0.5 Im ___ AbsNeut-5.70 AbsLymp-3.88* AbsMono-1.05* 
AbsEos-0.17 AbsBaso-0.05
___ 03:21AM BLOOD Glucose-72 UreaN-8 Creat-0.6 Na-136 K-4.1 
Cl-102 HCO3-22 AnGap-16
___ 03:21AM BLOOD Calcium-9.8 Phos-4.4 Mg-2.0
___ 03:21AM URINE Color-Straw Appear-Clear Sp ___
___ 03:21AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ s/p rLTCS on ___ with a history of 
nephrolithiasis and pyelonephritis requiring prior ICU admission 
in this pregnancy, also with a history of deep venous thrombosis 
during pregnancy.

Her course is as follows:

*) Nephrolithiasis/ h/o Pyelonephritis
Urine cultures from ___ grew pseudomonas.  With regards to 
antibiotics, she was started on ceftriaxone 1g Q24 hours.  She 
was transitioned to ceftazidime (___) and then to cephalexin 
(___-).  She received Tylenol, ibuprofen, oxycodone, and IV 
dilaudid for pain.  She was followed by urology.  She had a CT 
abdomen/pelvis on ___ that showed 2 non obstructing stones 
within the lower pole of the left kidney, measuring up to 4 mm.  
She also had an anterograde nephrostogram with moderate 
hydromephrosis with proximal dilatation and also dilatation in 
the mid segments of the right ureter.  She was discharged home 
with plans to continue a cap trial of her right percutaneous 
nephrostomy tube at home with a visiting nurse.  She will plan 
to follow up with interventional radiology in 2 weeks.  She will 
also have outpatient follow up with urology for a ureteroscopy.

For her history of DVT, she was continued on heparin for 
prophylaxis.

Her postpartum course was otherwise uncomplicated. 

By ___, she was tolerating a regular diet, ambulating 
independently, and pain was controlled with oral medications. 
She was afebrile with stable vital signs. She was then 
discharged home in stable condition with postpartum outpatient 
follow-up scheduled.

 
Medications on Admission:
prenatal vitamins
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every four (4) 
hours Disp #*40 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
3.  Enoxaparin Sodium 40 mg SC Q24H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin [Lovenox] 40 mg/0.4 mL 1 injection IM DAILY Disp 
#*42 Syringe Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*1 
5.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO QHS 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
daily Disp #*42 Capsule Refills:*0 
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
39 week gestation, history of C-section, history of urosepsis, 
nephrolithiasis, desired sterilization

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Nothing in the vagina for 6 weeks (No sex, douching, tampons)
No heavy lifting for 6 weeks
Do not drive while taking narcotics (i.e. Oxycodone, Percocet)
Do not take more than 4000mg acetaminophen (tylenol) in 24 hrs
Do not take more than 2400mg ibuprofen in 24 hrs
Please call the on-call doctor at ___ if you develop 
shortness of breath, dizziness, palpitations, fever of 101 or 
above, abdominal pain, increased redness or drainage from your 
incision, nausea/vomiting, heavy vaginal bleeding, or any other 
concerns.

You will be set up with a visiting home nurse to help you take 
care of the nephrostomy tube. If you start developing pain or a 
fever, you should connect the tube back to a bag to help drain 
your urine from your kidney. You should then call the 
interventional radiology office at ___ if you feel 
worsening fevers, chills, and right flank pain. 
 
Followup Instructions:
___